US07179823B1
3-Phenoxybenzyl chloride (11.32 g) and ethyl 3-phenyl-1H-pyrazole-4-carboxylate (11.30 g) were dissolved in N,N-dimethylformamide (100 ml). Sodium hydride (60%, oily, 2.49 g) was added to the solution at 0° C., and the solution was stirred at room temperature for 20 hours. The reaction mixture was poured into saturated aqueous sodium chloride solution, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was subjected to silica gel column chromatograpy, and an oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the oily substance obtained, potassium hydroxide (8.53 g) and ethanol (150 ml) was refluxed for 5 hours. After the reaction solvent was removed under reduced pressure, water was added to the mixture, then the mixture was acidified using 1N hydrochloric acid. The colorless crystals obtained were collected by filtration to yield 1-(3-phenoxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylic acid (14.83 g, yield: 77%). This was recrystallized from acetone-hexane. Melting point: 148–149° C.

reactant | 3-Phenoxybenzyl chloride | 11.32 g | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | ethyl 3-phenyl-1H-pyrazole-4-carboxylate | 11.30 g | C1(=CC=CC=C1)C1=NNC=C1C(=O)OCC | C12H12N2O2
reactant | Sodium hydride | 2.49 g | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | potassium hydroxide | 8.53 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(3-phenoxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylic acid | 14.83 g, yield: 77% | O(C1=CC=CC=C1)C=1C=C(CN2N=C(C(=C2)C(=O)O)C2=CC=CC=C2)C=CC1 | C23H18N2O3
